US07449586B2
4-Iodo-2,6-dimethylbenzenamine hydrochloride
To a suspension of sodium bicarbonate (126 g, 1500 mmol) and 2,6-dimethylaniline (61.5 mL, 500 mmol) in methanol (700 mL) was added iodine monochloride (1.0 M in dichloromethane, 550 mL, 550 mmol) at room temperature over 1 h. After addition was complete, stirring was continued for 3 h. The reaction was filtered to remove excess sodium bicarbonate and the solvent removed in vacuo. The residue was redissolved in diethyl ether (1.5 L) and treated with hydrochloric acid (2M in ether, 375 mL, 750 mmol). The resulting suspension was stored in the freezer (−15° C.) overnight. The solid was filtered and washed with diethyl ether until it became colorless to give 126.5 g (89%) as a grey-green powder. 1H-NMR (DMSO-d6) δ 2.33 (s, 6H), 7.48 (s, 2H), 9.05 (bs, 3H); 13C-NMR (DMSO-d6) δ 17.4, 91.5, 133.1, 131.2, 136.9.

reactant | sodium bicarbonate | 1500 mmol, 126 g | C([O-])(O)=O.[Na+]
reactant | 2,6-dimethylaniline | 500 mmol, 61.5 mL | CC1=C(N)C(=CC=C1)C | C8H11N
reactant | iodine monochloride | 550 mmol, 1.0 M, 550 mL | ICl | ClI
reactant | hydrochloric acid | 750 mmol, 2M, 375 mL | Cl | ClH
solvent | methanol | 700 mL | CO | CH4O
product | 4-Iodo-2,6-dimethylbenzenamine hydrochloride | Cl.IC1=CC(=C(C(=C1)C)N)C | InChI=1S/C8H10IN.ClH/c1-5-3-7(9)4-6(2)8(5)10;/h3-4H,10H2,1-2H3;1H
